US07429665B2
2-[2-Chloro4-(4-pyridin4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline
Following the procedure for the preparation of 2-{2-[4-(4-Pyridin-4-yl-2H-pyrazol-3-yl)-phenyl]-ethyl}-quinoline but substituting 1-[3-Chloro-4-(quinolin-2-ylmethoxy)-phenyl]-2-pyridin-4-yl-ethanone provided the title compound. 1H NMR (400 MHz, CD3OD) δ 8.37 (m, 4 H), 8.02 (d, J=8.7 Hz, 2 H), 7.93 (d, J=8.3 Hz, 2H), 7.78 (m, 2 H), 7.61 (t, J=7.1 Hz, 1 H), 7.31 (m, 2H), 7.21 (m, 1 H), 5.44 (s, 2H); MS: (M+H m/z=413.0).

reactant | 2-{2-[4-(4-Pyridin-4-yl-2H-pyrazol-3-yl)-phenyl]-ethyl}-quinoline | N1=CC=C(C=C1)C1=C(NN=C1)C1=CC=C(C=C1)CCC1=NC2=CC=CC=C2C=C1 | C25H20N4
reactant | 1-[3-Chloro-4-(quinolin-2-ylmethoxy)-phenyl]-2-pyridin-4-yl-ethanone | ClC=1C=C(C=CC1OCC1=NC2=CC=CC=C2C=C1)C(CC1=CC=NC=C1)=O | C23H17ClN2O2
product | 2-[2-Chloro4-(4-pyridin4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline | ClC1=C(OCC2=NC3=CC=CC=C3C=C2)C=CC(=C1)C1=NNC=C1C1=CC=NC=C1 | C24H17ClN4O
